Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vancomycin / Iodine-Iodine Containing / Meropenem / Ceftriaxone 
/ Ciprofloxacin / Flagyl / Levaquin / Aztreonam / moxifloxacin / 
Bactrim / adhesive tape
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
none

attach
 
Pertinent Results:
ADMISSION LABS
===============
___ 02:20PM   WBC-3.9* RBC-2.86* HGB-12.5 HCT-37.6 MCV-132* 
MCH-43.7* MCHC-33.2 RDW-19.3* RDWSD-95.3*
___ 02:20PM   NEUTS-62 ___ MONOS-10 EOS-0* BASOS-0 
NUC RBCS-14.7* AbsNeut-2.42 AbsLymp-1.09* AbsMono-0.39 
AbsEos-0.00* AbsBaso-0.00*
___ 02:20PM   POIKILOCY-2+* OVALOCYT-1+* SCHISTOCY-1+* 
ECHINO-1+* TEARDROP-1+* HOW-JOL-1+* RBCM-SLIDE REVI
___ 02:20PM   ___ PTT-24.3* ___
___ 02:20PM   CORTISOL-4.0
___ 02:20PM   ALBUMIN-3.7 CALCIUM-8.4 PHOSPHATE-1.6* 
MAGNESIUM-1.7
___ 02:20PM   cTropnT-0.02*
___ 02:20PM   LIPASE-25
___ 02:20PM   ALT(SGPT)-18 AST(SGOT)-19 ALK PHOS-47 TOT 
BILI-0.4
___ 02:20PM   GLUCOSE-113* UREA N-11 CREAT-1.1 SODIUM-136 
POTASSIUM-4.4 CHLORIDE-101 TOTAL CO2-21* ANION GAP-14
___ 02:27PM   LACTATE-1.6
___ 05:48PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-TR* BILIRUBIN-NEG UROBILNGN-NORMAL PH-6.0 
LEUK-NEG
___ 05:48PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 07:00PM OTHER BODY FLUID  FluAPCR-NEG FluBPCR-NEG
___ 07:54PM   cTropnT-0.02*

PERTINENT LABS
================
___ 10:40AM BLOOD Ret Aut-2.4* Abs Ret-0.06
___ 07:40AM BLOOD ___ 10:40AM BLOOD ___ 10:40AM BLOOD Albumin-3.1* Iron-104
___ 10:40AM BLOOD calTIBC-216* VitB12-1612* Folate-8 
___ Ferritn-154* TRF-166*
___ 07:55AM BLOOD TSH-5.3*
___ 07:40AM BLOOD Free T4-1.2
___ 12:03AM BLOOD Lactate-3.4*

DISCHARGE LABS
================
___ 07:25AM BLOOD WBC-3.5* RBC-2.13* Hgb-9.2* Hct-29.0* 
MCV-136* MCH-43.2* MCHC-31.7* RDW-19.4* RDWSD-96.4* Plt Ct-81*
___ 07:25AM BLOOD Neuts-65 ___ Monos-9 Eos-2 Baso-0 
NRBC-11.2* AbsNeut-2.28 AbsLymp-0.84* AbsMono-0.32 AbsEos-0.07 
AbsBaso-0.00*
___ 07:25AM BLOOD Anisocy-1+* Poiklo-1+* Macrocy-3+* 
Polychr-1+* Ovalocy-1+* Schisto-1+* How-Jol-1+* Acantho-1+* RBC 
Mor-SLIDE REVI
___ 07:25AM BLOOD Plt Smr-LOW* Plt Ct-81*
___ 07:25AM BLOOD ___ PTT-26.3 ___
___ 07:25AM BLOOD Glucose-115* UreaN-14 Creat-1.0 Na-139 
K-4.2 Cl-102 HCO3-21* AnGap-16
___ 07:25AM BLOOD Calcium-7.7* Phos-2.8 Mg-1.8

MICROBIOLOGY
=============
___ 2:20 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 5:48 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

___ 6:39 pm
      BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 8:29 am Rapid Respiratory Viral Screen & Culture
      Source: Nasopharyngeal swab. 

                            **FINAL REPORT ___

   Respiratory Viral Culture (Final ___: 
      No respiratory viruses isolated. 
      Culture screened for Adenovirus, Influenza A & B, 
Parainfluenza type
      1,2 & 3, and Respiratory Syncytial Virus.. 
      Detection of viruses other than those listed above will 
only be
      performed on specific request. Please call Virology at 
___
      within 1 week if additional testing is needed. 

   Respiratory Viral Antigen Screen (Final ___: 
      Negative for Respiratory Viral Antigen. 
      Specimen screened for: Adeno, Parainfluenza 1, 2, 3, 
Influenza A, B,
      and RSV by immunofluorescence. 
      Refer to respiratory viral culture and/or Influenza PCR 
(results
      listed under "OTHER" tab) for further information.. 

PERTINENT IMAGING
=================
___ CHEST XRAY: Lungs are hyperinflated.  No focal 
consolidation.  No pleural effusion or pneumothorax.  
Cardiomediastinal silhouette is within normal limits.  Stent 
material in the aortic arch is noted.  Coronary artery stents 
are also noted. Multiple lower thoracic vertebral compression 
deformities some containing cement are unchanged. 

___ CT CHEST: 1. New ground-glass opacifications in the 
right upper lobe concerning for infection. 
2. Scattered pulmonary nodules measure up to 4 mm, follow-up is 
recommended per the ___ criteria (no CT follow-up is 
recommended in a low-risk patient, and an optional CT follow-up 
in 12 months is recommended in a high-risk patient). 
3. Stable size of the excluded aortic arch aneurysm. 
4. Cholelithiasis. 

 
Brief Hospital Course:
PATIENT SUMMARY STATEMENT FOR ADMISSION
=========================================
Ms. ___ is a ___ female with AML s/p alloSCT in 
___ complicated by pulmonary GVHD, secondary JAK2+ 
myeloproliferative disease/essential thrombocytosis on hydrea, 
thoracic aneurysm s/p stent graft ___, asthma, paroxysmal atrial 
fibrillation on Xarelto, MI s/p CABG, adrenal insufficiency on 
prednisone, DMII, HFrEF (LVEF 42% ___, and vertebral 
fractures s/p kyphoplasty. She presented with weakness, fever, 
and worsening shortness of breath . Admitted for likely PNA vs. 
worsening GVHD.

TRANSITIONAL ISSUES
====================
Discharge weight: 57.52 kg - 126.8 lbs
Discharge Cr: 1.0
Discharge Hgb: 9.2
Discharge ANC: 2.28
Discharge platelets: 81

[ ] Follow-up with Dr. ___ ___ - will arrange sooner 
follow-up with NP
[ ] Follow-up cell counts to consider need for repeat bone 
marrow biopsy
[ ] Consider restarting hydroxyurea, which was held while 
inpatient in the setting of pancytopenia
[ ] Consider restarting lisinopril which was held while 
inpatient due to soft blood pressure
[ ] Recheck thyroid function tests given finding of slightly 
high TSH with normal free T4

ACUTE MEDICAL ISSUES ADDRESSED
=================================
# Fever / SOB
# Pneumonia 
# ? Worsening Pulmonary GVHD
Patient presented with fever, weakness, worsening shortness of 
breath and cough. Unclear etiology given CXR, UA, and flu swab 
negative. She had documented fever to 101.4 in the ED. Her RVP 
was negative but CT chest reported possible pneumonia. 
Additional concern for worsening GVHD in setting of recent 
decreased dose of prednisone. Patient received full course of 
antibiotic for pneumonia (piperacillin/tazobactam). Additionally 
steroid dosing was increased temporarily in the setting of 
worsening SOB, fevers and known secondary adrenal insufficiency. 
Throughot admission shortness of breath and cough improved 
significantly and therefore we restarted steroid taper.

# Secondary adrenal insufficiency
Given patient's history of secondary adrenal insufficiency and 
fever as above with need for 3L NS for normalization of lactate 
in setting of recent decreased prednisone dose, we tripled the 
patient's prednisone dose to 30 mg daily. Prior to discharge we 
restarted steroid taper which was tolerated with no new 
symptoms.

#Pancytopenia 
Pt with worsening pancytopenia on presentation which was 
different from her baseline. Plan was for bone marrow biopsy on 
___ but counts remained stable and uptrended slightly 
throughout admission. Bone marrow biopsy was deferred but as a 
transitional issue patient needs to follow blood cell count 
trends to determine the need for repeat bone marrow biopsy.

# JAK2-Positive Myeloproliferative Disorder
# AML s/p Allogeneic Stem Cell Transplant complicated by 
Pulmonary GVHD
Patient admitted with pancytopenia as above and therefore 
hydroxyurea was held. Prednisone dose was also increased as 
detailed above. She was continue on her home acyclovir, Advair, 
Montelukast.

CHRONIC ISSUES PERTINENT TO ADMISSION
=======================================
# CAD s/p CABG
# Chronic HFrEF (LVEF 42% ___
# Mild MR
- Patient continued on home ASA, Lipitor, metoprolol, and 
lisinopril

# DMII: In setting of chronic steroid use.
- Held home metformin and managed with ISS while inpatient

# Paroxysmal Atrial Fibrillation
- Patient continued on home metoprolol and rivaroxaban
- One dose of rivaroxaban was held in anticipation of bone 
marrow biopsy but was restarted soon after decision to defer.

# Hypothyroidism
___ checked and found to be slightly high with normal free T4
- Patient continued on home levothyroxine

# Anxiety
- Patient continued on home Ativan PRN

# GERD
- Patient continued on home dexlansoprazole as non-formulary

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Atorvastatin 40 mg PO QPM 
3. Cyanocobalamin 500 mcg PO DAILY 
4. Famotidine 20 mg PO BID:PRN dyspepsia 
5. Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID 
6. Hydroxyurea 1000 mg PO DAILY 
7. Levothyroxine Sodium 25 mcg PO DAILY 
8. PredniSONE 10 mg PO DAILY 
9. Rivaroxaban 20 mg PO DAILY 
10. Vitamin D 1000 UNIT PO DAILY 
11. Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of 
breath/wheezing 
12. LORazepam 0.25 mg PO Q4H:PRN 
nausea/vomiting/anxiety/insomnia 
13. Metoprolol Succinate XL 50 mg PO DAILY 
14. Metoprolol Tartrate 25 mg PO DAILY:PRN symptomatic 
palpitations  
15. Montelukast 10 mg PO DAILY 
16. Acyclovir 400 mg PO Q12H 
17. Azithromycin 250 mg PO 3X/WEEK (___) 
18. Lisinopril 2.5 mg PO BID 
19. MetFORMIN XR (Glucophage XR) 500 mg PO BID 
20. Incruse Ellipta (umeclidinium) 62.5 mcg/actuation IH DAILY 
21. Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit PO DAILY 
22. Dexilant (dexlansoprazole) 60 mg PO DAILY 
23. Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic (eye) 
BID 
24. Lotemax (loteprednol etabonate) 0.5 % ophthalmic (eye) DAILY 


 
Discharge Medications:
1.  PredniSONE 10 mg PO DAILY 
Start this dose on ___  
2.  Ramelteon 8 mg PO QPM:PRN insomnia 
RX *ramelteon 8 mg 1 tablet(s) by mouth at bedtime Disp #*30 
Tablet Refills:*2 
3.  PredniSONE 20 mg PO DAILY Duration: 3 Doses  
4.  Rivaroxaban 15 mg PO DINNER  
5.  Acyclovir 400 mg PO Q12H  
6.  Albuterol Inhaler ___ PUFF IH Q4H:PRN shortness of 
breath/wheezing  
7.  Aspirin 81 mg PO DAILY  
8.  Atorvastatin 40 mg PO QPM  
9.  Azithromycin 250 mg PO 3X/WEEK (___)  
10.  Calcium 600 + D(3) (calcium carbonate-vitamin D3) 600 
mg(1,500mg) -200 unit PO DAILY  
11.  Cyanocobalamin 500 mcg PO DAILY  
12.  Cyclosporine 0.05% Ophth Emulsion 0.05 % ophthalmic (eye) 
BID  
13.  Dexilant (dexlansoprazole) 60 mg PO DAILY  
14.  Famotidine 20 mg PO BID:PRN dyspepsia  
15.  Fluticasone-Salmeterol Diskus (500/50)  1 INH IH BID  
16.  Incruse Ellipta (umeclidinium) 62.5 mcg/actuation IH DAILY  

17.  Levothyroxine Sodium 25 mcg PO DAILY  
18.  LORazepam 0.25 mg PO Q4H:PRN 
nausea/vomiting/anxiety/insomnia  
19.  Lotemax (loteprednol etabonate) 0.5 % ophthalmic (eye) 
DAILY  
20.  MetFORMIN XR (Glucophage XR) 500 mg PO BID  
21.  Metoprolol Succinate XL 50 mg PO DAILY  
22.  Metoprolol Tartrate 25 mg PO DAILY:PRN symptomatic 
palpitations   
23.  Montelukast 10 mg PO DAILY  
24.  Vitamin D 1000 UNIT PO DAILY  
25. HELD- Hydroxyurea 1000 mg PO DAILY  This medication was 
held. Do not restart Hydroxyurea until Dr. ___ you to 
do so
26. HELD- Lisinopril 2.5 mg PO BID  This medication was held. Do 
not restart Lisinopril until your PCP tells you to do so

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
==================
- Community acquired pneumonia
- Possible rosined graft versus host disease

SECONDARY DIAGNOSES
====================
- Acute myelogenous leukemia status post allogeneic stem cell 
transplant and myeloproliferative disorder
- Secondary adrenal insufficiency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___,  

It was a privilege taking care of you at ___ 
___.  

WHY WAS I IN THE HOSPITAL?  
- You were admitted because you were having fevers and increased 
shortness of breath and cough

WHAT HAPPENED TO ME IN THE HOSPITAL?  
- We investigated the different possible causes for your fever. 
- We believe the fever and shortness of breath were most likely 
caused by a pneumonia that initially was a viral infection and 
could have been superinfected by a bacteria.
- Also as you had history of pulmonary graft versus host 
disease, we increased your prednisone temporarily to cover the 
possibility of GVHD flare.
- Initially your blood counts were dropping and this initially 
made us consider that you could need a bone marrow biopsy. 
However, your blood counts recovered while getting the treatment 
for pneumonia and biopsy was not necessary.
- You successfully finished the antibiotic course for the 
pneumonia

WHAT SHOULD I DO AFTER I LEAVE THE HOSPITAL?  
- Continue to take all your medicines and keep your 
appointments.  

We wish you the best.

Sincerely,  
Your ___ Team  
 
Followup Instructions:
___